US05935542
Isopropylammonium Ethyl Cyanophosphonate
Diethyl cyanophosphonate (0.50 g, 3.06 mmol) and isopropylammonium chloride (0.29 g, 3.03 mmol) were added to DMF (3 mL) and the reaction mixture was stirred overnight. The solvent was removed under reduced pressure to give 0.48 g (88% yield) of an oil which was analyzed by NMR and mass spectrometry without additional purification. 31P NMR (CD2Cl2) δ (ppm) -21.2 (t, 3JPH =8.4 Hz); 13C NMR (CD2Cl2) δ (ppm) 121.0 (d, 1JCP =177.8 Hz), 63.2 (d, 2JCP 6.3 Hz), 42.1 (s), 20.9 (s), 16.0 (d, 3JCP =7.5 Hz). Mass spectral analysis (FAB+TGL) detected the peak at m/z 195, corresponding to the protonated form of the salt [+NH3CH(CH3)2 --O(OC2H5)POCN+H+ ], the presence of the cation at m/z 60 ([NH3CH(CH3)2 ]+) and an anionic species (FAB-, TGL) at m/z 134 [NCP(O)(OC2H5)O- ].

reactant | Diethyl cyanophosphonate | 3.06 mmol, 0.50 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | isopropylammonium chloride | 3.03 mmol, 0.29 g | [Cl-].C(C)(C)[NH3+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Isopropylammonium Ethyl Cyanophosphonate | 0.48 g, 88% yield | C(C)OP([O-])(=O)C#N.C(C)(C)[NH3+] | InChI=1S/C3H6NO3P.C3H9N/c1-2-7-8(5,6)3-4;1-3(2)4/h2H2,1H3,(H,5,6);3H,4H2,1-2H3
